Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
USG guided abdominal wall drain placement

 
History of Present Illness:
Ms. ___ is a ___ female with a history of
breast cancer s/p bilateral mastectomy and silicone implant
reconstruction (___) complicated by implant rupture s/p saline
implants (___) s/p saline implant removal, capsulectomy, and 
gel
silicone implant with cosmetic abdominoplasty (___)
complicated by abdominal seroma s/p aspiration 2 weeks ago, now
presenting with fevers, malaise, and worsening superficial
abdominal pain.

She also has been having a dry cough intermittently, only when
she feels the chills coming on. She has no shortness of breath 
or
chest pain. Her breast surgery sites are healing well and are 
not
painful. Her abdominoplasty site has had some purulent drainage
over the past few days. The site has felt "puffy" and painful.
She denies dysuria and urinary frequency. No
lightheadedness/dizziness. She has been eating and drinking
normally. No nausea/vomiting. No diarrhea or constipation. No ___
edema.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

ED COURSE:
VS: Tmax 103.8, HR 84, BP 108/73, RR 18, SpO2 96% on RA
Exam: "mild tenderness over the anterior chest wall without
erythema induration or fluctuance. Abdominoplasty linear 
incision
is clear dry and intact mild fullness appreciated without
induration erythema." "No drainage appreciated from the
abdominoplasty." 
Labs: WBC 16.4, lactate 1.4, influenza A/B PCR negative
UA: mod blood, RBC 27, protein 30
Imaging: CXR clear
Consultants: Plastics & reconstructive surgery - recommending US
guided aspiration
Interventions: ceftriaxone 1 gm x1, vancomycin 1000 mg x1, LR 1L
x1, acetaminophen 1000 mg PO x1

 
Past Medical History:
 - Breast cancer s/p bilateral mastectomy with implants and
reconstruction as detailed above
 - Tobacco use
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
ADMISSION PHYSICAL EXAM -- 
VITALS: 24 HR Data (last updated ___ @ 742)
    Temp: 98.4 (Tm 98.4), BP: 102/64 (___), HR: 64, 
RR:
18 (___), O2 sat: 97% (___), O2 delivery: Ra, Wt: 147.6
lb/66.95 kg
GENERAL: Alert, NAD, appears well
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ___, lower abdominal surgical site with
draining purulence, surrounding erythema, induration, and JP
drain in site in RLQ with serosanguinous drainage in the bulb
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: See abdominal exam. Breast surgical incisions are clean,
dry and intact
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
moves all limbs 
PSYCH: pleasant, appropriate affect

DISCHARGE PHYSICAL EXAM -- 
See today's progress note for details
 
Pertinent Results:
___ 12:45AM BLOOD ___ 
___ Plt ___
___ 06:50AM BLOOD ___ 
___ Plt ___
___ 12:45AM BLOOD ___ 
___ Im ___ 
___
___ 06:50AM BLOOD ___ 
___
Drain Cx - Enterobacter
Blood Cx - neg till date
 
Brief Hospital Course:
1. Abdominal wall cellulitis w/ abscess
- s/p USG guided catheter drainage. Mx per Plastics
- Blood Cx remains neg till date. Drain Cx -- enterobacter 
sensitive to Bactrim. 
- WBC improved. ___ 
- D/w Plastic Surgery today : ok to discharge w/ drain. Will 
need f/u with them in a week for drain removal

2. Tobacco abuse
- Counseled.
- Nicotine patch - -declines prescription at discharge

3. Microscopic hematuria
- No UTI.
- Repeat UA outpt and Urology f/u if it persists

4, Hx breast ca

Time spent on overall clinical care today including coordinating 
discharge - over 30 mins.

Discharge plan was d/w patient and her significant other >> 
agree w/ discharge home w/ services today.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 10 Days 
RX ___ [Bactrim DS] 800 ___ mg 1 
tablet(s) by mouth twice a day Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Abdominal wall cellultis w/ abscess

 
Discharge Condition:
Stable
AAOx3; No distress
Independent ADL

 
Discharge Instructions:
Ms. ___,

You were treated for abdominal wall infection. You will need to 
take the antibiotic course as prescribed.

During your hospitalization, you were evaluated by the Plastic 
Surgery service and you will need to follow up with them as 
scheduled for abdominal drain removal.
 
Followup Instructions:
___